US06809100B2
4-(R)-Benzyl-3-{3-methyl-2-(R)-[4-(5-pyridin-3-ylpyrimidin-2-yl)piperazine-1-sulfonylmethyl]butyryl}oxazolidin-2-one
Prepared according to the method for the preparation of 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methyl-butyryl)oxazolidin-2-one, from 2-piperazin-1-yl-5-pyridin-3-ylpyrimidine, trihydrochloride (0.292 g) and 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one (0.343 g), to yield the title compound as a yellow solid (0.393 g, 82%).

reactant | 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methyl-butyryl)oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F)=O | C30H34FN5O5S
reactant | 2-piperazin-1-yl-5-pyridin-3-ylpyrimidine, trihydrochloride | 0.292 g | Cl.Cl.Cl.N1(CCNCC1)C1=NC=C(C=N1)C=1C=NC=CC1
reactant | 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one | 0.343 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)Cl)=O | C16H20ClNO5S
product | 4-(R)-Benzyl-3-{3-methyl-2-(R)-[4-(5-pyridin-3-ylpyrimidin-2-yl)piperazine-1-sulfonylmethyl]butyryl}oxazolidin-2-one | 0.393 g, 82% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C=1C=NC=CC1)=O | C29H34N6O5S
